US04355037
3-(1-Formyl-4-piperidyl)-6-chloro-1,2-benzisoxazole
To a stirred suspension of 1.25 g of sodium hydride (prepared from 2.5 g 50% oil dispersion) in 100 ml of tetrahydrofuran was added, over 20 mins, a solution of 10 g of 1-formyl-4-(2,4-dichlorobenzoyl)piperidine O-formyl oxime in 60 ml of dimethylformamide and 40 ml of tetrahydrofuran. The stirred mixture was heated to 80°-90° (oil bath temperature) for 5 hrs and after standing at 20° for 16 hrs, 10 ml of methanol and 20 ml of water were added. The reaction mixture was added to about 1.2 l of saturated sodium chloride solution. The mixture was extracted with 400 ml of ether. The extract was washed with 800 ml of water. The aqueous phase was extracted with 400 ml of ether and the combined ether extracts were distilled to yield an oil, which crystallized on standing. Recrystallization from isopropanol-ether gave 6.5 g (67.2%) of product, mp, 114°- 115°.

reactant | sodium hydride | 1.25 g | [H-].[Na+]
reactant | 1-formyl-4-(2,4-dichlorobenzoyl)piperidine O-formyl oxime | 10 g | C(=O)ON=C(C1=C(C=C(C=C1)Cl)Cl)C1CCN(CC1)C=O | C14H14Cl2N2O3
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium chloride | about 1.2 l | [Cl-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 3-(1-Formyl-4-piperidyl)-6-chloro-1,2-benzisoxazole | 6.5 g, 67.2% | C(=O)N1CCC(CC1)C1=NOC2=C1C=CC(=C2)Cl | C13H13ClN2O2
